US06500503B2
Preparation of 1-Methoxy-2-(3,4-difluorophenyl)ethane
Into a 2 liter three-necked flask equipped with a stirrer, a thermometer, a dropping funnel and a nitrogen gas tube, 133.7 g (390 mmol) of methoxymethyltriphenyl phosphonium chloride were charged in a nitrogen atmosphere and dried, and 450 ml of THF were added. The mixture was cooled to −30° C., 43.76 g (390 mmol) of potassium-t-butoxide were added and the mixture was stirred for 1 hr. To the mixture, a solution of 42.63 g (300 mmol) of 3,4-difluorobenzaldehyde in 150 ml of THF was added dropwise over a period of one and a half hours. The mixture was stirred as such over night and raised to room temperature. Water and heptane were added, the precipitate was filtered through Celite, and an organic layer and an aqueous layer were separated. The aqueous layer was extracted with heptane, an extract combined with the organic layer was washed with water, and the organic layer was dried over anhydrous magnesium sulfate. A solvent was distilled away from the solution, and the solution was condensed. The concentrate was purified by column chromatography (elution solvent: mixed solvent of toluene and heptane), the eluate was further purified by vacuum distillation to obtain 46.70 g of the title compound (91%, bp 98-100° C./15 Torr., cis:trans=1:1) as oily product.

reactant | methoxymethyltriphenyl phosphonium chloride | 390 mmol, 133.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 390 mmol, 43.76 g | CC(C)([O-])C.[K+]
reactant | 3,4-difluorobenzaldehyde | 300 mmol, 42.63 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | Water | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 1-Methoxy-2-(3,4-difluorophenyl)ethane | 46.70 g, 91% | COCCC1=CC(=C(C=C1)F)F | C9H10F2O
